US05641792
b) methyl 4-(6-quinaldinyloxy)-3-methylsulfonyl-benzoate
2 g of 6-hydroxyquinaldine, 3.12 g of methyl 4-chloro-3-methylsulfonyl-benzoate and 12.28 g of Cs2CO3 are stirred in 50 ml of anhydrous tetramethylurea at 110° C. for 1 h. The mixture is cooled, 250 ml of saturated aqueous NaHCO3 solution are added and extraction is carried out 3 times with 125 ml of EA. The extracts are dried over Na2SO4, the solvent is removed in vacuo and the residue is chromatographed with MTB. 3.98 g of a colorless foam are obtained. Rf (MTB)=0.31 MS (ES): 372 (M+H)+

reactant | 6-hydroxyquinaldine | 2 g | OC=1C=C2C=CC(=NC2=CC1)C | C10H9NO
reactant | methyl 4-chloro-3-methylsulfonyl-benzoate | 3.12 g | ClC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)C | C9H9ClO4S
reactant | Cs2CO3 | 12.28 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaHCO3 | 250 ml | C(=O)(O)[O-].[Na+]
solvent | tetramethylurea | 50 ml | CN(C(N(C)C)=O)C | C5H12N2O
product | methyl 4-(6-quinaldinyloxy)-3-methylsulfonyl-benzoate | 3.98 g | N1=C(C)C=CC2=CC(=CC=C12)OC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)C | C19H17NO5S
